US09056844B2
Preparation 13: Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-amino-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate
Add a 1M solution of trimethylphosphine in tetrahydrofuran (19.56 mL, 19.56 mmol) to di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-azido-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (8.00 g, 13.04 mmol) in tetrahydrofuran (43.46 mL) and water (130.39 mL) at room temperature and stir overnight. Saturated aqueous sodium bicarbonate is added to the reaction then extracted with ethyl acetate (3×). The combined organics are washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure giving the title compound (7.42 g, 12.63 mmol, 97%). MS (m/z): 609/611 (M+Na).

reactant | trimethylphosphine | CP(C)C | C3H9P
reactant | di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-azido-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 13.04 mmol, 8.00 g | N(=[N+]=[N-])[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C28H38Cl2N4O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 43.46 mL | O1CCCC1 | C4H8O
solvent | water | 130.39 mL | O | H2O
solvent | tetrahydrofuran | 19.56 mmol, 19.56 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-amino-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 12.63 mmol, 7.42 g, 97% | N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C28H40Cl2N2O7
